US04229449
4 g of ethyl 2-ethoxycarbonylmethyloxy-3-phenyl-3(2-methoxyphenoxy)propionate dissolved in 30 ml of ethanol was heated in an autoclave at 150° C. for 20 hours with 20 ml of a 10% ethanolic solution of methylamine. Cooling was allowed to take place and the solvent was removed under reduced pressure. The residue was crystallized from ethanol to obtain 2.26 g of 2-[α-(2-methoxy-phenoxy)-benzyl]-4-methyl-morpholin-3,5-dione.

reactant | ethyl 2-ethoxycarbonylmethyloxy-3-phenyl-3(2-methoxyphenoxy)propionate | 4 g | C(C)OC(=O)COC(C(=O)OCC)C(OC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C22H26O7
reactant | methylamine | CN | CH5N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[α-(2-methoxy-phenoxy)-benzyl]-4-methyl-morpholin-3,5-dione | 2.26 g, Yield 64% | COC1=C(OC(C2=CC=CC=C2)C2C(N(C(CO2)=O)C)=O)C=CC=C1 | C19H19NO5
